US05516774
10,11-Dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine
To a solution of 10 mmol of 10,11-dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine in 50 ml of methylene chloride under argon is added 15 mmol of triethylamine followed by ice bath cooling. A solution of 10 mmol of 4-nitrobenzoyl chloride in 10 ml of methylene chloride is added dropwise. Following complete addition, the ice bath is removed and the reaction mixture stirred at room temperature for 2 hours. The volatiles are removed in vacuo to give a residue which is dissolved in ethyl acetate. The solution is washed with water, and brine. The organic layer is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography to give desired product as a solid.

reactant | 10,11-dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine | 10 mmol | N=1C=CN2C1CNC1=C(C2)C=CC=C1 | C11H11N3
reactant | triethylamine | 15 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 10 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10,11-Dihydro-10-(4-nitrobenzoyl)-5H-imidazo[2,1-c]-[1,4]benzodiazepine | [N+](=O)([O-])C1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CN3)C=C1 | C18H14N4O3
